US07700640B2
3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(methylsulfonyl)phenoxy]benzamide
3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(methylsulfonyl)phenoxy]benzamide hydrochloride (2907.8 g, 6.03 mol) and ethyl acetate (30 L) were charged to the reaction vessel and stirred to give a thick cream slurry. Saturated aqueous sodium hydrogen carbonate solution (7.3 L) was charged to the reaction over at least 15 minutes (to control gas evolution). The mixture was stirred for at least 30 minutes until the solid had dissolved to give a clear solution. The aqueous phases was removed and discarded, the organic phase was washed with water (14.6 L), and screened into the crystallising vessel. The reaction mixture was azeo-dried by distillation; the ethyl acetate solution was distilled from 31.0 L down to 14.5 L, fresh ethyl acetate (14.5 L) was added and the distillation was repeated until there was 14.5 L of ethyl acetate remaining in the reaction vessel. The reaction mixture was cooled to 45° C. at −0.4° C./minute, and then held at 45° C. for 18 hours. The reaction mixture was seeded, MTBE (29 L) was added to the reaction mixture over ˜1 hour, maintaining the reaction temperature at 45° C.; the mixture was then stirred at this temperature for 3 hours prior to cooling to 20° C. at −0.4° C./min. The mixture was held at 20° C. for 18 hours, the product was then isolated by filtration and washed with MTBE (6.0 L) and dried in a vacuum oven at 40° C. This resulted in 2216 g (82% yield) of the title product.

reactant | 3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(methylsulfonyl)phenoxy]benzamide hydrochloride | 6.03 mol, 2907.8 g | Cl.OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C)C
reactant | sodium hydrogen carbonate | 7.3 L | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 30 L | C(C)(=O)OCC | C4H8O2
product | 3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(methylsulfonyl)phenoxy]benzamide | 2216 g, 82% yield | OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C)C | C21H23N3O6S
